US08283353B2
2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanamide
To a mixture of 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1 g), rhodium(I) acetate (0.009 g) and toluene (20 mL) was added dropwise 3-ethoxy-2-methyl-3-oxopropane-1-diazonium (1.5 mL) at 80° C., and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was concentrated, and the residue obtained by purification by silica gel column chromatography was dissolved in tetrahydrofuran (10 mL) and methanol (10 mL). 1N Aqueous sodium hydroxide solution (10 mL) was added, and the mixture was stirred at room temperature for 3 hr. 1 N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in N,N-dimethylformamide (10 mL), 1-hydroxybenzotriazole ammonium salt (0.21 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.3 g) were added, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with dilute hydrochloric acid and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.37 g, 65%).

reactant | 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@@H]2CC[C@H](CC2)O)=O)C=2C(=CC=CC2)C#N | C29H30FN5O2
reactant | 3-ethoxy-2-methyl-3-oxopropane-1-diazonium | 1.5 mL | C(C)OC(C(C[N+]#N)C)=O
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
catalyst | rhodium(I) acetate | 0.009 g | C(C)(=O)[O-].[Rh+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanamide | 0.37 g, 65% | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@@H]2CC[C@H](CC2)OC(C(=O)N)C)=O)F | C32H35FN6O3
